US07612114B2
2-(2-Methoxy-8,9-dihydro-7H-benzocyclohepten-6-yl)phenylamine
Synthesized from 2-methoxy-8,9-dihydro-7H-benzocyclohepten-6-yl trifluoromethanesulfonate and tributyl(2-nitrophenyl)tin according to an analogous synthetic method to Preparation Example 77, 3-methoxy-8-(2-nitrophenyl)-6,7-dihydro-5H-benzocycloheptene (830 mg) was used according to an analogous synthetic method to Example 57 to provide the title compound (442 mg).

reactant | 2-methoxy-8,9-dihydro-7H-benzocyclohepten-6-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC2=C(CCC1)C=C(C=C2)OC)(F)F | C13H13F3O4S
reactant | tributyl(2-nitrophenyl)tin | C(CCC)[Sn](C1=C(C=CC=C1)[N+](=O)[O-])(CCCC)CCCC
reactant | 3-methoxy-8-(2-nitrophenyl)-6,7-dihydro-5H-benzocycloheptene | 830 mg | COC1=CC2=C(C=C(CCC2)C2=C(C=CC=C2)[N+](=O)[O-])C=C1 | C18H17NO3
product | 2-(2-Methoxy-8,9-dihydro-7H-benzocyclohepten-6-yl)phenylamine | 442 mg | COC=1C=CC2=C(CCCC(=C2)C2=C(C=CC=C2)N)C1 | C18H19NO
